US08536214B2
d) N-(5-(chloromethyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide
Thionyl chloride (0.355 mL, 4.90 mmol) was added to a solution of N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide (660 mg, 2.450 mmol) in DCM (10 mL). The whole was stirred for 1 h before the reaction mixture was evaporated to dryness and the crude material was purified by silica flash column chromatography (EtOAc/heptane: from 0% to 60% of EtOAc) to afford the title compound as a white solid (360 mg, 51%). MS (ESI): m/z [M−H]− 286.0

reactant | Thionyl chloride | 4.90 mmol, 0.355 mL | S(=O)(Cl)Cl | Cl2OS
reactant | N-(5-(hydroxymethyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 2.450 mmol, 660 mg | OCC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C13H19NO3S
solvent | DCM | 10 mL | C(Cl)Cl | CH2Cl2
product | N-(5-(chloromethyl)-2,3-dihydro-1H-inden-1-yl)propane-2-sulfonamide | 360 mg, 51% | ClCC=1C=C2CCC(C2=CC1)NS(=O)(=O)C(C)C | C13H18ClNO2S
